US07112582B2
Step 2: 5-Methoxy-4-p-nitrobenzyloxycarbonyl-1,2,3,6-tetrahydropyrazine:
Trimethyloxonium tetrafluoroborate (97%, 3.7 g) was added to the dry dichloromethane (120 mL) solution of 4-p-nitrobenzyloxycarbonyl-piperazin-2one (6.7 g) at room temperature and stirred for 17 hours. The reaction mixture was treated with saturated sodium hydrogen carbonate aqueous solution, and the organic layer was separated. The aqueous layer was extracted with ethyl acetate (3×100 mL), then the combined organic layer was washed with saturated sodium hydrogen carbonate aqueous solution and brine. The organic layer was dried (MgSO4) and filtered. The filtrate was concentrated under reduce pressure and the title compound was obtained as a pale brown solid. Yield; 5.7 g, 80.6.

reactant | Trimethyloxonium tetrafluoroborate | 3.7 g | F[B-](F)(F)F.C[O+](C)C
reactant | 4-p-nitrobenzyloxycarbonyl-piperazin-2one | 6.7 g | [N+](=O)([O-])C1=CC=C(COC(=O)N2CC(NCC2)=O)C=C1 | C12H13N3O5
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 5-Methoxy-4-p-nitrobenzyloxycarbonyl-1,2,3,6-tetrahydropyrazine | COC1N(CCNC1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C13H17N3O5
